US07202247B2
Ex-3: A solution of 2-(5-ethynyl-2,4-dimethoxy-phenyl)-thiophene (1.0 g, 4.09 mmol) from Ex-1B in THF (35 mL) was cooled to −78° C. n-Butyllithium (4.62 mmol, 1.85 mL of a 2.5 M solution in hexanes) was added over 15 min while maintaining an internal temperature below −50° C. After aging for 15 min at −78° C., the reaction was transferred via cannula over 5 min to a cold (−78° C.) solution of (4-formyl-2,6-dimethoxy-phenoxy)-acetic acid methyl ester (1.15 g, 4.52 mmol) from Ex-3A in THF (25 mL). The resulting solution was slowly warmed to room temperature and then quenched with a saturated NH4Cl solution. The layers were separated, and the aqueous layer was extracted with ethyl acetate. The combined organic phases were dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure The resulting crude {4-[3-(2,4-dimethoxy-5-thiophen-2-yl-phenyl)-1-hydroxy-prop-2-ynyl]-2,6-dimethoxy-phenoxy}-acetic acid methyl ester was dissolved in dichloromethane (50 mL), charged with pyridinium dichromate (3.00 g, 7.97 mmol) and aged at room temperature under nitrogen for 2.5 h. The reaction was then filtered through a pad of celite using additional dichloromethane and then ethyl acetate. The combined organic was concentrated under reduced pressure. Silica gel chromatography (ethyl acetate/hexane, 3:2) gave 1.0 g (49%) of the desired {4-[3-(2,4-dimethoxy-5-thiophen-2-yl-phenyl)-propynoyl]-2,6-dimethoxy-phenoxy}-acetic acid methyl ester as a yellow solid, m.p. 153–155° C. 1H-NMR (300 MHz, CDCl3) δ 7.89 (s, 1H), 7.60 (s, 2H), 7.41 (dd, 1H, J=3.6 and 1.5 Hz), 7.35 (dd, 1H, J=5.3 and 1.5 Hz), 7.09 (dd, 1H, J=5.3 and 3.6 Hz), 6.54 (s, 1H), 4.77 (s, 2H), 4.01 (s, 3H), 3.99 (s, 3H), 3.97 (s, 6H), 3.82 (s, 3H).

reactant | 2-(5-ethynyl-2,4-dimethoxy-phenyl)-thiophene | 4.09 mmol, 1.0 g | C(#C)C=1C(=CC(=C(C1)C=1SC=CC1)OC)OC | C14H12O2S
reactant | n-Butyllithium | C(CCC)[Li]
reactant | (4-formyl-2,6-dimethoxy-phenoxy)-acetic acid methyl ester | 4.52 mmol, 1.15 g | COC(COC1=C(C=C(C=C1OC)C=O)OC)=O | C12H14O6
reactant | pyridinium dichromate | 7.97 mmol, 3.00 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | {4-[3-(2,4-dimethoxy-5-thiophen-2-yl-phenyl)-propynoyl]-2,6-dimethoxy-phenoxy}-acetic acid methyl ester | 1.0 g, 49% | COC(COC1=C(C=C(C=C1OC)C(C#CC1=C(C=C(C(=C1)C=1SC=CC1)OC)OC)=O)OC)=O | C26H24O8S
